US08207147B2
trans-4-[5-(4-Butoxymethylcyclohexyl)-[1,2,4]oxadiazol-3-yl]pyridine
A solution of 4-(3-pyridin-4-yl-[1,2,4]oxadiazol-5-yl)cyclohexylmethanol (Preparation 6) in THF was treated with sodium hydride, 1-bromobutane and tetrabutylammonium iodide, as described for Example 104, to afford the title compound: RT=4.16 min, m/z (ES+)=316.3

reactant | 4-(3-pyridin-4-yl-[1,2,4]oxadiazol-5-yl)cyclohexylmethanol | N1=CC=C(C=C1)C1=NOC(=N1)C1CCC(CC1)CO | C14H17N3O2
reactant | sodium hydride | [H-].[Na+]
reactant | 1-bromobutane | BrCCCC | C4H9Br
solvent | THF | C1CCOC1 | C4H8O
catalyst | tetrabutylammonium iodide | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | trans-4-[5-(4-Butoxymethylcyclohexyl)-[1,2,4]oxadiazol-3-yl]pyridine | C(CCC)OC[C@@H]1CC[C@H](CC1)C1=NC(=NO1)C1=CC=NC=C1 | C18H25N3O2
